US07888376B2
1-(Pyridin-2-yl)-1-(3-(trifluoromethyl)phenyl)-2-phenylethanamine was dissolved in dioxane (40 uL, 0.5 M in dioxane, 20 umol) and 3-chlorophenylisothiocyanate was added (200 uL, 0.2 M in dioxane, 40 umol, 2.0 eq). The reaction mixture was agitated at room temperature for 18 h The solvent was evaporated and the residue was redissolved in 1 mL of MeOH and purified by reverse phase preparative HPLC using MeOH:water:TFA system. 1-(3-chlorophenyl)-3-(2-phenyl-1-(pyridin-2-yl)-1-(3-(trifluoromethyl)phenyl)ethyl)thiourea was obtained a colorless oil (13.9 umol, 69% yield). LCMS: M+calc=511.11; found=511.98.

reactant | 1-(Pyridin-2-yl)-1-(3-(trifluoromethyl)phenyl)-2-phenylethanamine | N1=C(C=CC=C1)C(CC1=CC=CC=C1)(N)C1=CC(=CC=C1)C(F)(F)F | C20H17F3N2
reactant | 3-chlorophenylisothiocyanate | ClC=1C=C(C=CC1)N=C=S | C7H4ClNS
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 umol, 0.5 M, 40 uL | O1CCOCC1 | C4H8O2
product | 1-(3-chlorophenyl)-3-(2-phenyl-1-(pyridin-2-yl)-1-(3-(trifluoromethyl)phenyl)ethyl)thiourea | ClC=1C=C(C=CC1)NC(=S)NC(CC1=CC=CC=C1)(C1=CC(=CC=C1)C(F)(F)F)C1=NC=CC=C1 | C27H21ClF3N3S
